US05182263
Tetrabutyl ammonium sulfate (3.0 g, 9 mmol) was added to a biphasic mixture consisting of 10% aqueous sodium hydroxide (75 mL), 2-[(diphenylmethylene)amino]acetic acid benzyl ester (3.05 g, 9.3 mmol) and 1,1-dimethylethyl 4-bromomethylbenzoate (3.0 g, 9 mmol) in dichloromethane (58 mL). After several hours of vigorous stirring at room temperature, the reaction mixture was diluted with ether (300 mL) and the layers were separated. The organic layer was washed with water (3×30 mL), dried (K2CO3) and filtered. Concentration provided an oil that was purified by HPLC on silica gel (the columns were pre-treated with 10% triethylamine/hexanes, ethyl acetate and finally hexanes) eluting with a mixture of hexanes-ethyl acetate to give rac.-2-](diphenylmethylene)amino]-3-[4-[(1,1-dimethylethoxy)carbonyl]phenyl]propanoic acid benzyl ester, (1.7 g, 3 mmol) in 36% yield.

reactant | Tetrabutyl ammonium sulfate | 9 mmol, 3.0 g | S(=O)(=O)([O-])[O-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium hydroxide | 75 mL | [OH-].[Na+]
reactant | 2-[(diphenylmethylene)amino]acetic acid benzyl ester | 9.3 mmol, 3.05 g | C(C1=CC=CC=C1)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H19NO2
reactant | 1,1-dimethylethyl 4-bromomethylbenzoate | 9 mmol, 3.0 g | BrCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H15BrO2
solvent | dichloromethane | 58 mL | ClCCl | CH2Cl2
solvent | ether | 300 mL | CCOCC | C4H10O
product | 3-[4-[(1,1-dimethylethoxy)carbonyl]phenyl]propanoic acid benzyl ester | 3 mmol, 1.7 g, 36% yield | C(C1=CC=CC=C1)OC(CCC1=CC=C(C=C1)C(=O)OC(C)(C)C)=O | C21H24O4
